US09353121B2
According to General Procedure A; ethyl benzoylacetate (12.2 mL, 71.2 mmol, 1.1 equ.) in ethanol (130 mL) was treated at 0° C. with phenylhydrazine (7.00 g, 71.2 mmol, 1.0 equ.) to give 1,3-diphenyl-1H-pyrazol-5(4H)-one (6.75 g, 28.6 mmol, 44%) after purification by column chromatography on silica gel (hexanes:ethyl acetate; 4:1) and crystallization (ethanol) as a white off solid. 1H-NMR (400 MHz) DMSO: 11.84 (s, 1H), 7.84-7.82 (d, 4H), 7.50-7.40 (m, 4H), 7.34-7.27 (m, 2H), 6.02 (s, 1H), 13C-NMR (100 MHz) DMSO: 154.2, 150.0, 139.3, 133.8, 129.3, 129.0, 128.2, 126.1, 125.5, 121.5, 85.5; LC/MS-MS: 237.0→77.1 m/z; GS1 and GS2 at 30, DP=81, CE=68, CXP=4, tR=4.15 min.

reactant | ethyl benzoylacetate | 71.2 mmol, 12.2 mL | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | phenylhydrazine | 71.2 mmol, 7.00 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | 1,3-diphenyl-1H-pyrazol-5(4H)-one | 28.6 mmol, 6.75 g, 44% | C1(=CC=CC=C1)N1N=C(CC1=O)C1=CC=CC=C1 | C15H12N2O
